US04410716
Sodium borohydride (7.6 g) was added to 200 ml of diglyme, and with stirring at room temperature, a solution of 39.3 g of 4-(2-ethoxycarbonylbenzyl)benzaldehyde in 50 ml of diglyme was added dropwise over the course of 25 minutes. Subsequently, a solution of 9.33 g of anhydrous aluminum chloride in 50 ml of diglyme was added dropwise over the course of 15 minutes. The mixture was stirred at room temperature for 2 hours, and then at 45° to 50° C. for 1 hour. The reaction mixture was poured into about 3 liters of ice water, and stirred. The precipitated crystals were collected by filtration, washed with water, dried, and recrystallized from benzene to afford 28.2 g of 4-(2-hydroxymethylbenzyl)benzyl alcohol as colorless needle-like crystals having a melting point of 101.5° to 102° C.

reactant | Sodium borohydride | 7.6 g | [BH4-].[Na+]
reactant | 4-(2-ethoxycarbonylbenzyl)benzaldehyde | 39.3 g | C(C)OC(=O)C1=C(CC2=CC=C(C=O)C=C2)C=CC=C1 | C17H16O3
reactant | aluminum chloride | 9.33 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | diglyme | 50 ml | COCCOCCOC | C6H14O3
solvent | diglyme | 50 ml | COCCOCCOC | C6H14O3
solvent | diglyme | 200 ml | COCCOCCOC | C6H14O3
product | 4-(2-hydroxymethylbenzyl)benzyl alcohol | 28.2 g | OCC1=C(CC2=CC=C(CO)C=C2)C=CC=C1 | C15H16O2
